US06875884B1
To a solution of N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide (200 mg, 0.60 mmol) in MeOH (10 ml) were added succinic semialdehyde (15 wt. % solution in water, 0.45 ml, 0.72 mmol), HOAc (41 μl, 0.72 mmol) and NaBH3CN (45 mg, 0.72 mmol), and the mixture was stirred at RT for 2.5 h. After adding water, the mixture was extracted with chloroform, washed with water and brine, dried over sodium sulfate, and filtered. The filtrate was concentrated under vacuum to dryness, and the residue was chromatographed on silica gel (eluting with 5% methanol/chloroform) to afford 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (207 mg, 82%): MS(ES+) m/e 421 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 7.83 (dd, J=5.6, 2.9 Hz, 2H), 7.72 (m, 2H), 7.65 (d, J=7.6 Hz, 1H), 7.15 (m, 1H), 7.08 (m, 1H), 7.00 (d, J=7.3 Hz, 1H), 4.28 (m, 1H) 3.75 (m, 1H), 3.65 (m, 1H), 2.80-2.55 (m, 6H), 2.47 (m, 1H), 2.30 (m, 1H), 2.06-1.86 (m, 5H), 1.74-1.66 (m, 3H).

reactant | N-[3-(1,2,3,4-tetrahydro-1-naphthylamino)propyl]phthalimide | 0.60 mmol, 200 mg | C1(CCCC2=CC=CC=C12)NCCCN1C(C=2C(C1=O)=CC=CC2)=O | C21H22N2O2
reactant | succinic semialdehyde | 0.72 mmol, 0.45 ml | C(CC(=O)O)C=O | C4H6O3
reactant | HOAc | 0.72 mmol, 41 μl | CC(=O)O | C2H4O2
reactant | NaBH3CN | 0.72 mmol, 45 mg | [BH3-]C#N.[Na+]
solvent | MeOH | 10 ml | CO | CH4O
solvent | water | O | H2O
product | 4-[[(3-phthalimido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 207 mg, 82% | C1(C=2C(C(N1CCCN(CCCC(=O)O)C1CCCC3=CC=CC=C13)=O)=CC=CC2)=O | C25H28N2O4
